US06734301B2
A solution of tert-butyl 11-formyl-1,2,4,5-tetrahydro-3H-[1,4]diazepino[1,7-a]indole-3-carboxylate (314 gm, 1.0 mmol) in nitromethane (1 mL) is treated with ammonium acetate (23 mg, 0.3 mmol) and heated to reflux. After 18 hrs, the resulting dark brown solution is cooled to rt, diluted with water (15 mL), and extracted twice with dichloromethane (20 mL). The combined organics are washed with brine (15 mL), dried over MgSO4, filtered, and concentrated to give a crude solid. This material is purified by LC (230-400 silica gel) eluting with 10:40:50 ethyl acetate/dichloromethane/heptane to afford 240 mg of tert-butyl 11-[(E)-2-nitroethenyl]-1,2,4,5-tetrahydro-3H-[1,4]diazepino[1,7-a]indole-3-carboxylate as a bright yellow solid, mp 227-230° C. IR (drift) 1692, 1621, 1493, 1472, 1419, 1323, 1310, 1302, 1291, 1277, 1259, 1248, 1198, 1164, 751 cm−1; MS (EI) m/z 357 (M+).

reactant | tert-butyl 11-formyl-1,2,4,5-tetrahydro-3H-[1,4]diazepino[1,7-a]indole-3-carboxylate | 1.0 mmol, 314 gm | C(=O)C1=C2N(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C | C18H22N2O3
reactant | ammonium acetate | 0.3 mmol, 23 mg | C(C)(=O)[O-].[NH4+]
reactant | nitromethane | 1 mL | [N+](=O)([O-])C | CH3NO2
solvent | water | 15 mL | O | H2O
product | tert-butyl 11-[(E)-2-nitroethenyl]-1,2,4,5-tetrahydro-3H-[1,4]diazepino[1,7-a]indole-3-carboxylate | 240 mg | [N+](=O)([O-])/C=C/C1=C2N(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C | C19H23N3O4
